US08623859B2
4-Methoxy-N,2,6-trimethyl-N-[(5-{[4-(2-pyrrolidin-1-ylethyl)piperazin-1-yl]carbonyl}-1,3,4-thiadiazol-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure BK using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-thiadiazole-2-carboxylate (125 mg, 0.32 mmol), 1-(2-pyrrolidin-1-yl-ethyl)-piperazine (71 mg, 0.39 mmol), trimethylaluminium (2 M in toluene, 0.35 mL) and THF (10 mL).

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-thiadiazole-2-carboxylate | 0.32 mmol, 125 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(S1)C(=O)OC)C | C15H19N3O5S2
reactant | 1-(2-pyrrolidin-1-yl-ethyl)-piperazine | 0.39 mmol, 71 mg | N1(CCCC1)CCN1CCNCC1 | C10H21N3
reactant | trimethylaluminium | 2 M, 0.35 mL | C[Al](C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-N,2,6-trimethyl-N-[(5-{[4-(2-pyrrolidin-1-ylethyl)piperazin-1-yl]carbonyl}-1,3,4-thiadiazol-2-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1SC(=NN1)C(=O)N1CCN(CC1)CCN1CCCC1)C)C | C24H36N6O4S2
